US06720323B2
2-Morpholinoethyl N-[(5S)-3,9,10,11-tetramethoxy-6,7-dihydro-5H-dibenzo[a,c]cyclohepten-5-yl]carbamate
A solution of (5S)-3,9,10,11-tetramethoxy-6,7-dihydro-5H-dibenzo[a,c]cyclohepten-5-ylamine [Collect. Czech. Chem. Commun. 1999, 64(2), 217-228] (0.263 g; 0.8 mmol), 4-nitrophenylchloroformate (0.177 g; 0.88 mmol) and triethylamine (0.123 ml; 0.88 mmol) in acetonitrile (5 ml) was stirred under argon atmosphere for 2 hours at ambient temperature; 4-(2-hydroxyethyl)morpholine (0.145 ml; 1.2 mmol) in solution in acetonitrile (2 ml) was then added to the above solution. The mixture was heated at 60° C. overnight. After evaporation to dryness, the residue was purified by flash chromatography, eluted with ethanol/dichloromethane (4/96) to give the title compound.

reactant | (5S)-3,9,10,11-tetramethoxy-6,7-dihydro-5H-dibenzo[a,c]cyclohepten-5-ylamine | 0.8 mmol, 0.263 g | COC=1C=CC2=C([C@H](CCC3=C2C(=C(C(=C3)OC)OC)OC)N)C1 | C19H23NO4
reactant | 4-nitrophenylchloroformate | 0.88 mmol, 0.177 g | C1=CC(=CC=C1[N+](=O)[O-])[Cl-]C(=O)[O-]
reactant | triethylamine | 0.88 mmol, 0.123 ml | C(C)N(CC)CC | C6H15N
reactant | 4-(2-hydroxyethyl)morpholine | 1.2 mmol, 0.145 ml | OCCN1CCOCC1 | C6H13NO2
solvent | acetonitrile | 5 ml | C(C)#N | C2H3N
solvent | acetonitrile | 2 ml | C(C)#N | C2H3N
product | 2-Morpholinoethyl N-[(5S)-3,9,10,11-tetramethoxy-6,7-dihydro-5H-dibenzo[a,c]cyclohepten-5-yl]carbamate | Yield: 64% | COC=1C=CC2=C([C@H](CCC3=C2C(=C(C(=C3)OC)OC)OC)NC(OCCN3CCOCC3)=O)C1 | C26H34N2O7
